US06265569B1
To a solution of sodium hydride (60% oil, 9.82 g, 245 mmol) in DMF (200 ml), trifluoroacetamide (34.7 g, 307 mmol) divided into 10 portion was added portionwise with ice cooling. Then, the reaction mixture was added with a solution of 8-iodo-1-octyne (14.5 g, 61.4 mmol) in DMF (60 ml), and stirred at room temperature for two hours. The reaction mixture was added with saturated aqueous ammonium chloride (400 ml) and ether (400 ml) for extraction. The ether layer was dried over magnesium sulfate, and concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (eluent; hexane-ethyl acetate mixed solvent), and crystallized from hexane to afford 10.8 g of 8-trifluoroacetamido-1-octyne (yield; 79.3%). Melting point: 29.5-30.0° C.

reactant | sodium hydride | 245 mmol, 9.82 g | [H-].[Na+]
reactant | trifluoroacetamide | 307 mmol, 34.7 g | FC(C(=O)N)(F)F | C2H2F3NO
reactant | 8-iodo-1-octyne | 61.4 mmol, 14.5 g | ICCCCCCC#C | C8H13I
reactant | ammonium chloride | 400 ml | [Cl-].[NH4+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | ether | 400 ml | CCOCC | C4H10O
product | 8-trifluoroacetamido-1-octyne | 10.8 g, yield; 79.3% | FC(C(=O)NCCCCCCC#C)(F)F | C10H14F3NO
